US04550101
2,3-Dihydroxypyridine (5.55 g) is suspended in methyl iodide (20 ml) in a sealed tube and heated for 24 hours at 140° C. The reaction is taken to be complete when a dark brown residue forms as a separate phase from the methyl iodide and the tube is then cooled in solid carbon dioxide and opened. The excess methyl iodide is poured off, distilled water (10 ml) is added to the brown residue, and sulphur dioxide gas is bubbled through the mixture until the aqueous phase becomes clear. The pH of the reaction mixture is adjusted to a value of 6 with 1M aqueous sodium carbonate and the resulting solution then saturated with ammonium sulphate and extracted with chloroform until the chloroform layer no longer gives a blue colouration when added to ferric chloride solution. The chloroform extracts are combined and dried over sodium sulphate. The solvent is then evaporated under vacuum and the resulting residue is crystallised from petroleum ether (b.p. 100°-120° C.) using activated charcoal to give 3-hydroxy-1-methylpyrid-2-one, m.p. 129°-131° C.; νmax (nujol) 1,660, 3,100 cm-1 ; δ(d6DMSO) 3.6(s,3H), 6.1(t,1H), 6.8(m,2H), 7.3(s,1H); M+ 125.

reactant | 2,3-Dihydroxypyridine | 5.55 g | OC1=NC=CC=C1O | C5H5NO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methyl iodide | 20 ml | CI | CH3I
product | 3-hydroxy-1-methylpyrid-2-one | OC=1C(N(C=CC1)C)=O | C6H7NO2
